US08097628B2
(c) N2-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-2,3-pyridinediamine
N-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-3-nitro-2-pyridinamine (35.00 g, 123.6 mmol) was divided into 2 aliquots, each of which was taken up in 1,4-dioxane (500 ml) and hydrogenated over 10% Pd on carbon (paste, 1:1 w:w with water, 4.00 g) under 1 atmosphere hydrogen pressure, at room temperature for 18 h. The mixtures were filtered with suction though Celite, using argon blanket and taking care to minimise contact of the product with air. The solids were washed with 1,4-dioxane and the combined filtrate plus washings were evaporated under reduced pressure to give the title compound as a deep purple oil. This was used immediately in the next step.

reactant | N-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-3-nitro-2-pyridinamine | 123.6 mmol, 35.00 g | CC1(OCC(CO1)NC1=NC(=CC=C1[N+](=O)[O-])OC)C | C12H17N3O5
reactant | hydrogen | [H][H] | H2
solvent | 1,4-dioxane | 500 ml | O1CCOCC1 | C4H8O2
catalyst | Pd on carbon | 4.00 g | [Pd] | Pd
product | N2-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-2,3-pyridinediamine | CC1(OCC(CO1)NC1=NC(=CC=C1N)OC)C | C12H19N3O3
